 amplifier
.model bc547c NPN (BF=730 NE=1.4 ISE=29.5F IKF=80M IS=60F VAF=25 ikr=12m
       + BR=10 NC=2 VAR=10 RB=280 RE=1 RC=40 VJE=.48 tr=.3u tf=.5n
       +cje=12p vje=.48 mje=.5 cjc=6p vjc=.7 mjc=.33 isc=47.6p kf=2f)

Vin in 0 sin(0 .1 2k)
V1 4 0 9
Ce 0 5 5u
Cout 1 out 220n  
Cin in 3 220n  
Rc 1 4 1k
Rload 0 out 22k  
Re 0 5 1k
Rg 5 2 40  
R2 0 3 33k  
R1 3 4 47k  
Q1 1 3 2 bc547c 

.TRAN 15u 1.23m

.end
